US05753664
2-[4-(4-Chlorobenzoyl)benzyloxy]-3,5-dimethyl-4(3H)-quinazolinone,
To a solution of 4-(4-chlorobenzoyl)benzyl alcohol (1.0 g) in DMF (20 ml) was added 60% sodium hydride (210 mg) and the mixture was stirred at room temperature for 10 minutes. Then, 2-chloro-3,5-dimethyl-4(3H)-quinazolinone (850 mg) was added and the mixture was stirred at room temperature for 1 hour and at 80° C. for 10 minutes. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate: chloroform=4:1:1) to provide the title compound as colorless solid (350 mg).

reactant | 4-(4-chlorobenzoyl)benzyl alcohol | 1.0 g | ClC1=CC=C(C(=O)C2=CC=C(CO)C=C2)C=C1 | C14H11ClO2
reactant | sodium hydride | 210 mg | [H-].[Na+]
reactant | 2-chloro-3,5-dimethyl-4(3H)-quinazolinone | 850 mg | ClC1=NC2=CC=CC(=C2C(N1C)=O)C | C10H9ClN2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-[4-(4-Chlorobenzoyl)benzyloxy]-3,5-dimethyl-4(3H)-quinazolinone | 350 mg | ClC1=CC=C(C(=O)C2=CC=C(COC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H19ClN2O3
